US07524875B2
Into a 1 L beaker were weighed 222 g (1.0 mol) of 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane purified in Example 1-1, 250 ml of ethanol, and 400 ml of distilled water, and the whole was adjusted to pH 2 with phosphoric acid. With introduction of nitrogen thereinto, the solution was heated to 70° C. After 1.5 hours of reaction, the solution was adjusted to pH 7.0 with sodium hydroxide, the resulting salts were adsorbed onto an adsorbent “KYOWAAD 1000” (manufactured by Kyowa Chemical Industry Co., Ltd.), and the solvent was removed to obtain 3-benzyloxy-1,2-propanediol.

reactant | 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane | 1.0 mol, 222 g | C(C1=CC=CC=C1)OCC1OC(OC1)(C)C | C13H18O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | KYOWAAD 1000 | C(=O)([O-])[O-].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-].[Mg+2].[Al+3]
product | 3-benzyloxy-1,2-propanediol | C(C1=CC=CC=C1)OCC(CO)O | C10H14O3
